US04855324
1-(trimethylsilyl)-1-undecyn-3-one
To 500ml of CH2Cl2 was added 53ml (294 mmol) of nonanoyl chloride and 50g (293.4 mmol) of bis(trimethylsilyl) acetylene. The reaction mixture was cooled in an ice bath and 40g (300 mmol) of AlCl3 was added portionwise with stirring over 1/2 hour. After stirring for an additional hour, the reaction mixture was quenched with ice. Water was added to the reaction mixture and it was extracted 3x with 200ml aliquots of diethyl ether. The combined extracts were washed 2x with 50ml aliquots of saturated NaHCO3, 1 x with brine, and then dried (MgSO4). The solvent was removed in vacuo to give a brown oil which was used without further purification.

reactant | nonanoyl chloride | 294 mmol, 53ml | C(CCCCCCCC)(=O)Cl | C9H17ClO
reactant | bis(trimethylsilyl) acetylene | C[Si](C)(C)C#C[Si](C)(C)C | C8H18Si2
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 500ml | C(Cl)Cl | CH2Cl2
product | 1-(trimethylsilyl)-1-undecyn-3-one | C[Si](C#CC(CCCCCCCC)=O)(C)C | C14H26OSi
